US05716958
N-t-butoxycarbonyl-O-tetrahydropyranyl-L-serine
7.65 g of N-t-butoxycarbonyl-L-serine and 3.88 g of 3,4-dihydro-2H-pyrane were dissolved in 60 ml of dichloromethane followed by the addition of 0.47 g of pyridinium p-toluene sulfonate and the solution was stirred for 3 hours at room temperature. After the reaction solution was washed with water and saturated brine, the solvent was distilled off under reduced pressure to obtain 9.90 g of the target compound. Yield: 92%

reactant | N-t-butoxycarbonyl-L-serine | 7.65 g | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | 3,4-dihydro-2H-pyrane | 3.88 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | pyridinium p-toluene sulfonate | 0.47 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | N-t-butoxycarbonyl-O-tetrahydropyranyl-L-serine | 9.90 g, Yield: 92% | C(C)(C)(C)OC(=O)N[C@@H](COC1OCCCC1)C(=O)O | C13H23NO6
